US08957070B2
N-(2-hydroxy-1,1-dimethylethyl)-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide
To a mixture of 7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid (1.00 g), 2-amino-2-methylpropan-1-ol (0.55 g), 1H-1,2,3-benzotriazol-1-ol (0.50 g) and N,N-dimethylformamide (15 mL) was added N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (0.71 g) at 0° C., and the mixture was stirred at 60° C. overnight. Water was added to the reaction mixture and the mixture was acidified with 10% aqueous citric acid solution. The resulting crystals were filtrated, washed with water, and dried to give the title compound (0.89 g, yield 74%) as colorless crystals. melting point>217° C. (decomposition).

reactant | 7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid | 1.00 g | S1C(=CC=C1)S(=O)(=O)NC=1C=CC=C2C=C(NC12)C(=O)O | C13H10N2O4S2
reactant | 2-amino-2-methylpropan-1-ol | 0.55 g | NC(CO)(C)C | C4H11NO
reactant | 1H-1,2,3-benzotriazol-1-ol | 0.50 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.71 g | Cl.CN(CCCN=C=NCC)C
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | N-(2-hydroxy-1,1-dimethylethyl)-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide | 0.89 g, yield 74% | OCC(C)(C)NC(=O)C=1NC2=C(C=CC=C2C1)NS(=O)(=O)C=1SC=CC1 | C17H19N3O4S2
